US07368572B2
To a suspension of methyl 4-oxo-4,5,6,7-tetrahydro-benzofuran-2-ylcarboxylate (5.60 g, 28.8 mmol) in CCl4 (200 ml) were added N-bromosuccinimide (5.18 g, 28.8 mmol) and 2,2′-azobisisobutyronitrile (0.483 g, 2.88 mmol). The reaction mixture was heated at reflux for 80 min and concentrated in vacuo. The residue was suspended in ethyl acetate (200 ml), washed with saturated sodium bicarbonate solution (2×50 ml), brine (50 ml), dried over sodium sulfate, filtered, and concentrated in vacuo. The crude product was purified by flash chromatography over silica gel with ethyl acetate/hexane (1/10) to yield methyl 4-hydroxy-benzofuran-2-ylcarboxylate as a while solid (4.21 g, 21.9 mmol).

reactant | methyl 4-oxo-4,5,6,7-tetrahydro-benzofuran-2-ylcarboxylate | 28.8 mmol, 5.60 g | O=C1CCCC2=C1C=C(O2)C(=O)OC | C10H10O4
reactant | N-bromosuccinimide | 28.8 mmol, 5.18 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobisisobutyronitrile | 2.88 mmol, 0.483 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | CCl4 | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl 4-hydroxy-benzofuran-2-ylcarboxylate | OC1=CC=CC2=C1C=C(O2)C(=O)OC | C10H8O4
